US05510379
To a stirred solution of 2,4,6-triisopropylphenoxysulfonyl acetic acid (1.0 g, 2.92 mM) in 15 mL of methylene chloride at 0° C. was added a solution of dibenzylamine (0.59 g, 2.92 mM) and dicyclohexylcarbodiimide (0.62 g, 3 mM) in 10 mL of methylene chloride. The reaction mixture was stirred 1 hour at 0° C., warmed to 24° C., and stirred at that temperature for 12 hours. The reaction mixture was filtered to remove the solid precipitate. The filtrate was concentrated to an oil by evaporation of the solvent under reduced pressure. The oil was purified by chromatography over a silica gel column, eluting with hexane:ethyl acetate (1:1 v/v). The fractions showed by thin layer chromatography to contain the major component were combined and the solvent was removed by evaporation under reduced pressure to provide 0.5 g (76%) of 2,4,6-triisopropylphenyl N,N-dibenzylcarbamoylmethyl sulfonate, mp 107°-110° C.

reactant | 2,4,6-triisopropylphenoxysulfonyl acetic acid | 2.92 mM, 1.0 g | C(C)(C)C(C(=O)O)S(=O)(=O)OC1=CC=C(C=C1C(C)C)C(C)C | C17H26O5S
reactant | dibenzylamine | 2.92 mM, 0.59 g | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | dicyclohexylcarbodiimide | 3 mM, 0.62 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 2,4,6-triisopropylphenyl N,N-dibenzylcarbamoylmethyl sulfonate | 0.5 g, 76% | C(C1=CC=CC=C1)N(C(=O)CS(=O)(=O)OC1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)CC1=CC=CC=C1 | C31H39NO4S
